US04783455
10-Acetamido-2,3,4,10-tetrahydro-10-methylpyrimido [1,2-a]indole
A solution of 2,3,4,10-tetrahydro-10-methylpyrimido [1,2-a]indol-10-ol (0.444 g) in acetonitrile (4 ml) and methanesulphonic acid (10 drops) was adde dropwise over 5 min to stirred sulphuric acid 98% w/w (2.5 ml) at 50°-60°. After 2.5h, the solution was poured into water (100 ml), basified with sat. aqueous sodium bicarbonate, and extracted with chloroform (3×100 ml). The extracts were washed with water (200 ml), dried (MgSO4), and evaporated in vacuo to give the title compound as the free base (0.07 g).

reactant | 2,3,4,10-tetrahydro-10-methylpyrimido [1,2-a]indol-10-ol | 0.444 g | CC1(C=2N(C=3C=CC=CC13)CCCN2)O | C12H14N2O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | 100 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetonitrile | 4 ml | C(C)#N | C2H3N
catalyst | methanesulphonic acid | 10 drops | CS(=O)(=O)O | CH4O3S
product | 10-Acetamido-2,3,4,10-tetrahydro-10-methylpyrimido [1,2-a]indole | C(C)(=O)NC1(C=2N(C=3C=CC=CC13)CCCN2)C | C14H17N3O
